US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((3-cyclopropyl-6-(pyridin-4-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:, using instead (3-ethoxy-4-methoxyphenyl)boronic acid (80.5 mg, 0.41 mmol) as a starting material to afford 38.8 mg (32.5%) of (R)-4-((R)-1-((3-cyclopropyl-6-(3-ethoxy-4-methoxyphenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, DMSO-d6) δ 8.232 (s, 1H), 7.723 (s, 1H), 7.61 (d, J=8.7 Hz 2H), 7.545 (s, 1H), 7.00 (d, J=8.4 Hz, 1H). 5.51 (t, J=5.6 Hz, 1H), 4.1 (q, J=6.9 Hz, 2H), 3.77 (s, 3H), 3.65 (d, J=3.3 Hz, 1H), 3.39 (t, J=9 Hz, 1H), 3.29 (s, 2H) 3.20 (t, J=8 Hz, 1H), 2.84 (d, J=6 Hz, 1H), 2.32 (d, J=8.7 Hz, 2H), 1.414-1.342 (m, 6H), 1.088-1.032 (m, 4H). LCMS-ESI+ (m/z): [M+H]+ calcd for C24H28N4O4:436.21; found 437.18.

reactant | (R)-4-((R)-1-((3-cyclopropyl-6-(pyridin-4-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=NC=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C20H21N5O2
reactant | (3-ethoxy-4-methoxyphenyl)boronic acid | 0.41 mmol, 80.5 mg | C(C)OC=1C=C(C=CC1OC)B(O)O | C9H13BO4
product | (R)-4-((R)-1-((3-cyclopropyl-6-(3-ethoxy-4-methoxyphenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 38.8 mg, 32.5% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)OC)OCC)O[C@H](C)[C@@H]2CC(NC2)=O | C24H28N4O4
